US06982348B2
To a solution of 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (151 mg, 0.801 mmol) in N,N-dimethylformamide (5 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (154 g, 0.801 mmol) and 1-hydroxybenzotriazole monohydrate (123 mg, 0.801 mmol), and (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-[4-(2,2,3,3,3-pentafluoropropyl)phenyl]-1-propanol (0.30 g, 0.763 mmol) was finally added. The mixture was stirred at room temperature, overnight. The mixture was diluted with ethyl acetate, saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, and dried over anhydrous magnesium sulfate. The mixture was filtered using a glass filter filled with silica gel, and the filtrate was washed with ethyl acetate and concentrated under reduced pressure. The residue was purified by recrystallization (hexane-ethyl acetate) to give N-[(1RS,2SR)-1-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]-2-(3-chlorophenyl)-2-hydroxyethyl]-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide (0.284 g, 66%) as colorless crystals.

reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 0.801 mmol, 151 mg | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.801 mmol, 154 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.801 mmol, 123 mg | O.ON1N=NC2=C1C=CC=C2
reactant | (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-[4-(2,2,3,3,3-pentafluoropropyl)phenyl]-1-propanol | 0.763 mmol, 0.30 g | NC(C(O)C1=CC(=CC=C1)Cl)CC1=CC=C(C=C1)CC(C(F)(F)F)(F)F | C18H17ClF5NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | N-[(1RS,2SR)-1-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]-2-(3-chlorophenyl)-2-hydroxyethyl]-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide | 0.284 g, 66% | FC(CC1=CC=C(CC(C(O)C2=CC(=CC=C2)Cl)NC(=O)C=2C=CC=C3C2C=CCCC3)C=C1)(C(F)(F)F)F | C30H27ClF5NO2
